US07691877B2
4-Ethyl-oxazole-5-carboxylic acid ethyl ester
2-Chloro-3-oxo-pentanoic acid ethyl ester (13.5 g) was dissolved in 75 ml of 95% formic acid. Ammonium formate (27.6 g) was added and the reaction heated at reflux under nitrogen for 6 hours. After cooling to room temperature the reaction mixture was evaporated and the residue extracted with ether (3×50 ml). Combined ether extracts were washed with water and brine, dried (MgSO4), filtered and evaporated to give a crude oil (9 g). The oil was purified by chromatography on silica gel, eluting with CH2Cl2/MeOH 99:1, providing the title compound (3.77 g) as a pale brown oil.

reactant | 2-Chloro-3-oxo-pentanoic acid ethyl ester | 13.5 g | C(C)OC(C(C(CC)=O)Cl)=O | C7H11ClO3
reactant | Ammonium formate | 27.6 g | C(=O)[O-].[NH4+]
solvent | formic acid | 75 ml | C(=O)O | CH2O2
product | 4-Ethyl-oxazole-5-carboxylic acid ethyl ester | 3.77 g | C(C)OC(=O)C1=C(N=CO1)CC | C8H11NO3
